US07662402B2
400 mg of 2-(2,2-dimethylpropyl)malononitrile was dissolved in 5 ml of N,N-dimethylformamide and then cooled in an ice bath. To this was added 120 mg of sodium hydride (60% oil). After generation of hydrogen gas ceased, 750 mg of 1-bromo-3,3,3-trifluoropropane was added dropwise and the mixture was stirred at room temperature for 12 hours. Thereafter, ice water and ethyl acetate were added to the reaction mixture. The mixture was stirred and then separated into layers. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 437 mg of 2-(2,2-dimethylpropyl)-2-(3,3,3-trifluoropropyl)malononitrile (hereinafter, referred to as the present compound (43)).

reactant | 2-(2,2-dimethylpropyl)malononitrile | 400 mg | CC(CC(C#N)C#N)(C)C | C8H12N2
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-bromo-3,3,3-trifluoropropane | 750 mg | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,2-dimethylpropyl)-2-(3,3,3-trifluoropropyl)malononitrile | 437 mg | CC(CC(C#N)(C#N)CCC(F)(F)F)(C)C | C11H15F3N2
